### PR TITLE
[Merged by Bors] - feat(Data/Matroid/Basic): matroid congruence definitions

### PR DESCRIPTION
**Pull request by apnelson1**
Added three definitions that produce copies of matroids with superior definitional properties, in response to [this comment](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Transcendence.20degree.3F/near/494675777) on zulip.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matroid/Basic.lean [hunk 1]
```diff
@@ -734,6 +734,69 @@ theorem existsMaximalSubsetProperty_indep (M : Matroid α) :
...
+    exact M.exists_base
+  base_exchange := by
+    simp_rw [show Base = M.Base from funext (by simp [hB])]
+    exact M.base_exchange
+  maximality := by
+    simp_rw [hE, show Indep = M.Indep from funext (by simp [hI])]
+    exact M.maximality
+  subset_ground := by
+    simp_rw [hE, hB]
+    exact M.subset_ground
```
Comment (jcommelin) [inline Mathlib/Data/Matroid/Basic.lean:796]: If you move this one first, then you can define the others in terms of this, right?
Also, in other places in mathlib we call these kinds of defs `copy`.

File: Mathlib/Data/Matroid/Basic.lean [hunk 2]
```diff
@@ -744,6 +744,43 @@ theorem existsMaximalSubsetProperty_indep (M : Matroid α) :
 
 end dep_indep
 
+section copy
+
+/-- create a copy of `M : Matroid α` with independence and base predicates and ground set defeq
+to supplied arguments that are provably equal to those of `M`. -/
+@[simps] def copyBaseIndep (M : Matroid α) (E : Set α) (Base Indep : Set α → Prop)
```
Comment (jcommelin) [inline Mathlib/Data/Matroid/Basic.lean:751]:
```suggestion
@[simps] def copy (M : Matroid α) (E : Set α) (Base Indep : Set α → Prop)
```

File: Mathlib/Data/Matroid/Basic.lean [hunk 3]
```diff
@@ -744,6 +744,43 @@ theorem existsMaximalSubsetProperty_indep (M : Matroid α) :
...
+    exact M.maximality
+  subset_ground := by
+    simp_rw [hE, hB]
+    exact M.subset_ground
+
+/-- create a copy of `M : Matroid α` with an independence predicate and ground set defeq
+to supplied arguments that are provably equal to those of `M`. -/
+@[simps!] def copyIndep (M : Matroid α) (E : Set α) (Indep : Set α → Prop)
+    (hE : E = M.E) (h : ∀ I, Indep I ↔ M.Indep I) : Matroid α :=
+  M.copyBaseIndep E M.Base Indep hE (fun _ ↦ Iff.rfl) h
```
Comment (jcommelin) [inline Mathlib/Data/Matroid/Basic.lean:774]:
```suggestion
  M.copy E M.Base Indep hE (fun _ ↦ Iff.rfl) h
```

File: Mathlib/Data/Matroid/Basic.lean [hunk 4]
```diff
@@ -744,6 +744,43 @@ theorem existsMaximalSubsetProperty_indep (M : Matroid α) :
...
+
+/-- create a copy of `M : Matroid α` with a base predicate and ground set defeq
+to supplied arguments that are provably equal to those of `M`. -/
+@[simps!] def copyBase (M : Matroid α) (E : Set α) (Base : Set α → Prop)
+    (hE : E = M.E) (h : ∀ B, Base B ↔ M.Base B) : Matroid α :=
+  M.copyBaseIndep E Base M.Indep hE h (fun _ ↦ Iff.rfl)
```
Comment (jcommelin) [inline Mathlib/Data/Matroid/Basic.lean:780]:
```suggestion
  M.copy E Base M.Indep hE h (fun _ ↦ Iff.rfl)
```

**Review by jcommelin — COMMENTED** [review]
bors d+
